US04011230
As in Example 17, reaction of p-methoxy-β-nitrostyrene with dimethylammonium dimethyldithiocarbamate in the presence of carbon disulfide gave p-methoxy-α-(nitromethyl)benzyl dimethyldithiocarbamate melting at 86° C.-89° C. when recrystallized without heating from acetone-methanol solution.

reactant | p-methoxy-β-nitrostyrene | COC1=CC=C(C=C[N+](=O)[O-])C=C1 | C9H9NO3
reactant | dimethylammonium dimethyldithiocarbamate | CN(C([S-])=S)C.C[NH2+]C
solvent | carbon disulfide | C(=S)=S | CS2
product | p-methoxy-α-(nitromethyl)benzyl dimethyldithiocarbamate | CN(C(SC(C1=CC=C(C=C1)OC)C[N+](=O)[O-])=S)C | C12H16N2O3S2
